US08110573B2
A mixture of 4-tert-butoxycarbonylamino-1H-pyrazole-3-carboxylic acid (10.0 g, 44.1 mmol), 4-morpholin-4-ylmethyl-benzene-1,2-diamine (10.0 g, 48.5 mmol), EDC (10.14 g, 52.9 mmol) and HOBt (7.15 g, 52.9 mmol) in DMF (150 mL) was stirred at ambient temperature for 20 h and then the majority of the solvent removed in vacuo. The residue was partitioned between EtOAc (150 mL) and saturated aqueous NaHCO3 (150 mL), the layers separated and the organic portion washed with brine, dried over MgSO4 and reduced in vacuo to give [3-(2-amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester (17.6 g, 96%) as a brown solid. LC/MS analysis indicates product contains 15% of the di-amide. This shows at approx. 5% level in 1H NMR. Di-amide is cleaved in subsequent step.

reactant | 4-tert-butoxycarbonylamino-1H-pyrazole-3-carboxylic acid | 44.1 mmol, 10.0 g | C(C)(C)(C)OC(=O)NC=1C(=NNC1)C(=O)O | C9H13N3O4
reactant | 4-morpholin-4-ylmethyl-benzene-1,2-diamine | 48.5 mmol, 10.0 g | N1(CCOCC1)CC=1C=C(C(=CC1)N)N | C11H17N3O
reactant | EDC | 52.9 mmol, 10.14 g
reactant | HOBt | 52.9 mmol, 7.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | [3-(2-amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester | 17.6 g, 96% | C(C)(C)(C)OC(NC=1C(=NNC1)C(NC1=C(C=C(C=C1)CN1CCOCC1)N)=O)=O | C20H28N6O4
